US07915271B2
Step F 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6′-fluoro-4′-methoxy-3-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic Acid
methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6′-fluoro-4′-methoxy-3-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (55 mg, 0.074 mmol), lithium hydroxide monohydrate (31 mg, 0.74 mmol), water (1 mL) and 1,4-dioxane (2 mL) were stirred at room temperature overnight. LCMS trace of reaction aliquot indicated completion of reaction. Crude mixture was acidified by HCl (1N aq.). Volatiles were removed under reduced pressure. Pot residue was dissolved in a water/MeCN mixture and purified by reverse-phase prep-HPLC (Kromasil 100-5C18, 100×21.1 mm) eluting w/a MeCN (0.1% TFA, v/v)/H2O (0.1% TFA, v/v) gradient mixture. Corresponding fractions were pooled & evaporated in vacuo to afford a light yellow glass. This residue was dissolved in EtOAc and washed w/water (10 mL×2), separated, dried/Na2SO4, filtered and concentrated to afford the title compound. LCMS (ESI) calc.=729.16; found=730.15 (+1)+. 1H NMR (CDCl3, 500 MHz, 1:1 mixture of atropisomers): δ 8.10 (t, J=7.8 Hz, 1H), 7.85 (d, J=5 Hz, 1H), 7.70 (s, 1.5H), 7.66 (d, J=8 Hz, 1H), 7.62 (s, 1.5H), 7.47-7.38 (m, 3H), 7.30-7.25 (m, 1H), 6.85 (dd, J=12.5, 3 Hz, 1H), 5.61 (d, J=8 Hz, 0.5H), 5.31 (d, J=8 Hz, 0.5H), 4.94 (d, J=4.5 Hz, 0.5H), 4.91 (d, J=4 Hz, 0.5H), 4.15 (d, J=16.5 Hz, 0.5H), 3.93 (d, J=16 Hz, 0.5H), 3.86 (s, 3H), 3.86-3.76 (m, 1H), 2.68 (s, 3H), 0.57 (d, J=6.5 Hz, 1.5H), 0.46 (d, J=6.5 Hz, 1.5H).

reactant | methyl 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6′-fluoro-4′-methoxy-3-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.074 mmol, 55 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C(=CC1OC)F)C1=CC(=C(C=C1)C(=O)OC)C)C)(F)F | C36H27F10NO5
reactant | lithium hydroxide monohydrate | 0.74 mmol, 31 mg | O.[OH-].[Li+]
reactant | water | 1 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6′-fluoro-4′-methoxy-3-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic Acid | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C(=CC1OC)F)C1=CC(=C(C=C1)C(=O)O)C)C)(F)F | C35H25F10NO5
